US08022205B2
N-[4-(2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-phenyl]-methane sulfonamide (B-19)
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl)methane sulfonamide as a boronic acid, the desired compound was obtained as a colorless solid.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2 | C15H16ClN5O
reactant | N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl)methane sulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NS(=O)(=O)C)C | C13H20BNO4S
reactant | boronic acid | B(O)O | BH3O2
product | N-[4-(2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-phenyl]-methane sulfonamide | N1(CCOCC1)C=1N=C(C2=C(N1)N(CC2)C2=CC=NC=C2)C2=CC=C(C=C2)NS(=O)(=O)C | C22H24N6O3S
